US07414061B2
3-(4-Fluoro-phenyl)-4-[1-(4-fluoro-phenyl)-1H-imidazol-4-yl]-5-methyl-isoxazole
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-(4-fluorophenyl)-isoxazole (73 mg, 0.3 mmol) was converted, using 4-fluorophenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (10 mg, 10%) which was obtained as an off-white solid. MS: m/e=338.7[M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-(4-fluorophenyl)-isoxazole | 0.3 mmol, 73 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=C(C=C1)F | C13H10FN3O
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 3-(4-Fluoro-phenyl)-4-[1-(4-fluoro-phenyl)-1H-imidazol-4-yl]-5-methyl-isoxazole | 10 mg, 10% | FC1=CC=C(C=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)F)C | C19H13F2N3O
